US07582782B2
b) (2S,4S,5S,7S)-5-Azido-4-(tert-butyl-dimethyl-silanyloxy)-2-isopropyl-7-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-8-methyl-nonanoic acid (2-piperidin-1-yl-ethyl)-amide
HBTU (1.20 g, 3.0 mmol) was added to a solution of (2S,4S,5S,7S)-5-azido-4-(tert-butyl-dimethyl-silanyloxy)-2-isopropyl-7-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-8-methyl-nonanoic acid (1.50 g, 2.5 mmol) in CH3CN (50 mL). Then 2-aminoethylpiperidine (324 mg, 2.5 mmol) and NEt3 (3.9 mL) were added and the resulting solution was stirred at RT for 2.5 hours. For workup, EtOAc was added and the organic phase was washed with 1 N HCl, saturated NaHCO3 solution and brine. Drying of the organic phase (Na2SO4) and evaporation of the solvent affords the crude product which is purified by flash column chromatography [CH2Cl2:MeOH (95:5)] to give the desired product as a colorless oil. MS (LC-MS): 705.1 [M+H]+; tR (HPLC, C18 column, 10-100% CH3CN/H2O/5 minutes, 100% CH3CN/3 minutes, 100-10% CH3CN/H2O/3 minutes, flow: 1.5 mL/min.): 6.82 minutes.

reactant | HBTU | 3.0 mmol, 1.20 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4S,5S,7S)-5-azido-4-(tert-butyl-dimethyl-silanyloxy)-2-isopropyl-7-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-8-methyl-nonanoic acid | 2.5 mmol, 1.50 g | N(=[N+]=[N-])[C@H]([C@H](C[C@H](C(=O)O)C(C)C)O[Si](C)(C)C(C)(C)C)C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC | C31H55N3O6Si
reactant | 2-aminoethylpiperidine | 2.5 mmol, 324 mg | NCCN1CCCCC1 | C7H16N2
reactant | NEt3 | 3.9 mL | CCN(CC)CC | C6H15N
solvent | CH3CN | 50 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2S,4S,5S,7S)-5-Azido-4-(tert-butyl-dimethyl-silanyloxy)-2-isopropyl-7-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-8-methyl-nonanoic acid (2-piperidin-1-yl-ethyl)-amide | N1(CCCCC1)CCNC([C@@H](C[C@@H]([C@H](C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)N=[N+]=[N-])O[Si](C)(C)C(C)(C)C)C(C)C)=O | C38H69N5O5Si
